US04918064
2,5-Dimethyl-4-(diethylphosphonomethyl)benzaldehyde
DMSO (32 mL) was heated to 100° C. and then NaHCO3 (4.5 gm) was added all at once. The mixture was stirred vigorously as α-chloro-α'-diethylphosphono-2,5-dimethyl-p-xylene (7 mmol) in DMSO (45 mL) and chloroform (5 mL) was rapidly added. The mixture was stirred for 7 min. and then quickly cooled to room temperature. The reaction mixture was combined with H2O (350 mL) and extracted with 3×125 mL ethyl ether. The combined organic layers were washed with 5×150 mL H2O, dried over MgSO4, and concentrated on a rotatory evaporator to an oil. The crude material was chromatographed on silica gel (175 gm) using ethyl acetate as the eluting solvent. The appropriate fractions were pooled and concentrated to give the product as a clear oil.

reactant | NaHCO3 | 4.5 gm | C(=O)(O)[O-].[Na+]
reactant | α-chloro-α'-diethylphosphono-2,5-dimethyl-p-xylene | 7 mmol | ClCC1=C(C=C(C(=C1)C)CP(=O)(OCC)OCC)C | C14H22ClO3P
reactant | H2O | 350 mL | O | H2O
solvent | DMSO | 45 mL | CS(=O)C | C2H6OS
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DMSO | 32 mL | CS(=O)C | C2H6OS
product | 2,5-Dimethyl-4-(diethylphosphonomethyl)benzaldehyde | CC1=C(C=O)C=C(C(=C1)CP(=O)(OCC)OCC)C | C14H21O4P
